US04582855
(A) 3-[(2-ISOPROPYLCARBONYLAMINO)ETHYLAMINO]1,2-PROPANEDIOL
To 39 g (0.3 mol) of 2-(isopropylcarbonylamino)ethylamine in 150 ml of isopropyl alcohol was added 22.2 g (0.3 mol) of glycidol. The reaction mixture was stirred at 25° C. for 24 hours and evaporated in vacuo. The residual oil was chromatographed (silica gel/ethanol) to give 18.6 g (30%) of product. This compound was identified by NMR and IR spectroscopy.

reactant | 2-(isopropylcarbonylamino)ethylamine | 0.3 mol, 39 g | C(C)(C)C(=O)NCCN | C6H14N2O
reactant | glycidol | 0.3 mol, 22.2 g | C1C(O1)CO | C3H6O2
solvent | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
product | 3-[(2-ISOPROPYLCARBONYLAMINO)ETHYLAMINO]1,2-PROPANEDIOL | 18.6 g, 30% | CC(C)C(=O)NCCNCC(CO)O | C9H20N2O3
